*****************************************************************
******STMicroelectronics MOSFET, IGBT and Bipolar Library *******
*****************************************************************
*																*
* Models provided by STMicroelectronics are not guaranteed to	*
* fully represent all the specifications and operating			*
* characteristics of the product behavior that they reproduce.	*
* The model describes the characteristics of a typical device.	*
* In all cases, the current product data sheet contains all		*
* information to be used like final design guidelines and the	*
* only actual performance specification.						*
* Altough models can be a useful tool in evaluating device		*
* performance, they cannot model exact device performance under	*
* all conditions.												*
* STMicroelectronics therefore does not assume any				*
* responsibility arising from their use.						*
* STMicroelectronics reserves the right to change models		*
* without prior notice.											*
*																*
*****************************************************************

.SUBCKT STD12N65M2_TN  Tj Tcase
*******************************************
******    Thermal Net Junction Case  ******
*******************************************
R_Gpower 0 TJ 1E6
Rx Tj Tj1 0.1u

.PARAM Kth=1.25

Rth1 Tj1 Th1	{55E-04*Kth}
Rth2 Th1 Th2	{11E-02*Kth}
Rth3 Th2 Th3	{43E-02*Kth}
Rth4 Th3 Th4	{175E-03*Kth}
Rth5 Th4 Tcase	{0.425*Kth}

Cth1 Tj1 0		{1E-05/Kth}
Cth2 Th1 0		{15E-04/Kth}
Cth3 Th2 0		{6E-03/Kth}
Cth4 Th3 0		{50E-03/Kth}
Cth5 Th4 0		{0.255/Kth}
Cth6 Tcase 0	0.255 
*******************************************
.ENDS STD12N65M2_TN
