********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
*Aug 01, 2016
*ECN S16-1479, Rev. B
*File Name: SiHB24N65E_PS.txt and SiHB24N65E_PS.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.
.SUBCKT SiHB24N65E D G S
M1 3 GX S S NMOS W= 2113196u L= 2u 
M2 S GX S D PMOS W= 2113196u L= 4u 
M2B S GX S 3 PMOS2 W= 2113196u L= 0.8u 
R1 4 3 4.800e-02 TC=4.896e-03,-5.500e-05
J1 D S 4 JD 2113196u 
.MODEL JD NJF (VTO = -1.403e+01 BETA = 2.735e-01 LAMBDA = 1.000e-02 
+BETATCE = -1.65 VTOTC = -0.0819 IS = 1e-18 N = 10 )
CGS GX S 1.932e-09 
CGD GX D 15.277e-12 
RG G GY 0.68 
RTCV 100 S 1e6 TC=3.427e-03,0
ETCV GX GY 100 200 1 
ITCV S 100 1u 
VTCV 200 S 1 
DBD S D DBD 2113196u 
**************************************************************** 
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 10e-8 
+ RS = 0 KP = 1.363e-05 NSUB = 8.828e+16 
+ KAPPA = 6.482e-01 NFS = 1.000e+12 
+ LD = 0 IS = 0 TPG = 1 )
*************************************************************** 
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 10e-8 
+NSUB = 3.000e+13 IS = 0 TPG = -1    )
.MODEL PMOS2 PMOS ( LEVEL = 3 TOX = 10e-8 
+NSUB = 3e13 IS = 0 TPG = -1 )
**************************************************************** 
.MODEL DBD D ( 
+FC = 0.1 TT = 4.330e-07 T_measured = 25 BV = 651
+RS = 1.157e-02 N = 1.455e+00 IS = 14.026e-10 
+EG = 1.204e+00 XTI = 3.615e-01 TRS1 = 2.979e-03
+CJO = 5.815e-09 VJ = 1.618e+00 M = 9.990e-01 ) 
.ENDS 
