* source D5 SMPS
V_V2         N08678 0   PWL    
+ 0 0 300u 25  
X_D4         N08614 N08966 power_diode_p PARAMS: I_REV_LEAK=0.004m
+  CT_ZERO_VOLTS=300p V_BR=100 VJ_KNEE=0.4 VJ_SPEC=0.6 IF_SPEC=10
R_R6         N08574 0  1G TC=0,0 
X_U4         0 N08970 Sw_tClose PARAMS: tClose=6m ttran=1u Rclosed=207.36
+  Ropen=1Meg
X_TX1          N08606 N09042 N08742 N08970 N08462 0 FWDR
R_R3         0 N09002  3.66 TC=0,0 
X_U2          N08658 N08606 N08450 N08574 N08622 N08614 0 UCC28730_netlist
X_D8          0 0 N08742 FERD20S100SB-TR
C_C2         N08622 0  8.2u  TC=0,0 
R_R2         N08450 N08462  90.9k TC=0,0 
R_R8         N08966 N08614  100 TC=0,0 
X_D6         N08606 N09130 Zener PARAMS: VZT=150 TCBV=150 
V_V1         N08606 0   PWL    
+ 0 0 300u 375  
X_U3          N09042 N08966 N09002 IPN70R1K2P7S_L1 PARAMS: dRdson=0 dVth=0
R_R5         N08622 N08498  22 TC=0,0 
C_C3         0 N08606  14.9u  TC=0,0 
D_D7         N09042 N09130 Dbreak 
X_D2         N08678 N08622 power_diode_p PARAMS: I_REV_LEAK=1e-5
+  CT_ZERO_VOLTS=300p V_BR=600 VJ_KNEE=0.9 VJ_SPEC=1.6 IF_SPEC=6
R_R1         0 N08450  34.8k TC=0,0 
C_C1         N08970 0  150u  TC=0,0 
X_D1         N08462 N08498 power_diode_p PARAMS: I_REV_LEAK=1e-5
+  CT_ZERO_VOLTS=300p V_BR=600 VJ_KNEE=0.9 VJ_SPEC=1.6 IF_SPEC=6
R_R10         0 N091540  1k TC=0,0 
C_C5         N091540 N09042  30p  TC=0,0 
R_R4         N09002 N08658  4.02k TC=0,0 
X_U1          N08742 N08970 0 0 0 UCC24650
