* source D5 SMPS
X_D2         N03014 N01729 power_diode_p PARAMS: I_REV_LEAK=1e-5
+  CT_ZERO_VOLTS=300p V_BR=600 VJ_KNEE=0.9 VJ_SPEC=1.6 IF_SPEC=6
C_C2         N01729 0  8.2u  TC=0,0 
R_R6         N02192 0  1G TC=0,0 
R_R4         N01218 N01248  4.1k TC=0,0 
X_U1          N00510 N00528 0 0 0 UCC24650
X_U4         0 N00528 Sw_tClose PARAMS: tClose=6m ttran=1u Rclosed=207.36
+  Ropen=1Meg
X_D3         0 N00510 power_diode_p PARAMS: I_REV_LEAK=0.004m
+  CT_ZERO_VOLTS=300p V_BR=100 VJ_KNEE=0.4 VJ_SPEC=0.6 IF_SPEC=10
X_D1         N01007 N01962 power_diode_p PARAMS: I_REV_LEAK=1e-5
+  CT_ZERO_VOLTS=300p V_BR=600 VJ_KNEE=0.9 VJ_SPEC=1.6 IF_SPEC=6
V_V2         N03014 0   PWL    
+ 0 0 300u 25  
R_R1         0 N01399  27.4k TC=0,0 
X_U2          N01248 N00036 N01399 N02192 N01729 N01150 0 UCC28730_netlist
C_C1         N00528 0  390u  TC=0,0 
C_C3         N02607 N00763  30p  TC=0,0 
R_R5         N01729 N01962  22 TC=0,0 
R_R2         N01399 N01007  71.5k TC=0,0 
V_V1         N00036 0   PWL    
+ 0 0 300u 375  
R_R3         0 N01218  0.821 TC=0,0 
X_TX1          N00036 N00763 N00510 N00528 N01007 0 FWDR2
R_R7         0 N02607  50k TC=0,0 
X_U6          N00763 N01146 N01218 IPP65R190C7_L1 PARAMS: dRdson=0 dVth=0
X_D4         N01150 N01146 power_diode_p PARAMS: I_REV_LEAK=0.004m
+  CT_ZERO_VOLTS=300p V_BR=100 VJ_KNEE=0.4 VJ_SPEC=0.6 IF_SPEC=10
R_R8         N01146 N01150  60 TC=0,0 
