*PSpice Modeling Apps Index library File
*$
 .SUBCKT FWDR_Model P1 P2 RS1 RS2 S1 S2
* Model generated on 2023 February 7
* MODEL FORMAT: PSpice
* MODEL Type: FWDR_Model
RP1 P1 PI 10m
LP1 PI P2 1m
LS1 S1 SI1 1.0000e-1
LL1 SI1 SI2 100n
RS1 SI2 S2 10m
LRS1 RS2 RS1 1.0000e-3
K1 LP1 LS1 LRS1 1
RG1 S2 0 1G
RG2 RS2 0 1G
.ends FWDR_Model
