*PSpice Modeling Apps Index library File
*$
 .SUBCKT FLB_Model P1 P2 S1 S2
* Model generated on 2023 February 2
* MODEL FORMAT: PSpice
* MODEL Type: FLB_Model
RP1 P1 PI 450m
LP1 PI P2 500u
LS1 S1 SI1 1.8000e-2
RS1 SI1 SI2 50m
LL1 SI2 S2 5u
K1 LP1 LS1 1
RG1 S2 0 1G
.ends FLB_Model
 .SUBCKT FWDR_Model P1 P2 RS1 RS2 S1 S2
* Model generated on 2023 February 2
* MODEL FORMAT: PSpice
* MODEL Type: FWDR_Model
RP1 P1 PI 450m
LP1 PI P2 500u
LS1 S1 SI1 1.8000e-2
LL1 SI1 SI2 5u
RS1 SI2 S2 50m
LRS1 RS2 RS1 1.8000e-2
K1 LP1 LS1 LRS1 1
RG1 S2 0 1G
RG2 RS2 0 1G
.ends FWDR_Model
