* source D5
C_C1         0 N00159  2.533u  TC=0,0 
C_C2         0 N00257  15u  TC=0,0 
X_L1         N00159 N00257 LPO2506O-474LD
X_U2          N02021 N01944 0 0 0 UCC24650
X_U3          N00946 N00718 N01646 N01150 N01874 N00883 0 UCC28730_netlist
X_D1         N00718 N00842 1smb5935bt3/ON
D_D2         N00887 N00842 MURS160T3G 
R_R1         N00932 0  1.02 TC=0,0 
R_R2         N00946 N00932  1.96k TC=0,0 
R_R3         N01150 0  147k TC=0,0 
R_R4         N01716 N01646  68.1k TC=0,0 
R_R5         N01646 0  26.1k TC=0,0 
D_D3         N01716 N01874 10MQ060N 
C_C3         0 N01874  3u  TC=0,0 
D_D4         0 N02021 DMBRS2040LT3/ON 
R_R7         N01944 0  6.67k TC=0,0 
C_C4         0 N01944  330u  TC=0,0 
V_V1         N12659 N12650 DC 0 AC 1
+SIN 0 132.5 50 0 0 0
X_U4         N12650 0 N12659 N00159 2KBP10M_3N259
X_M2         N00887 N00883 N00932 SPW11N80C3_L1 PARAMS:   
X1_TX2         N00718 N00887  0 N01716 N02021 N01944 FWDR_Model
V_V2         N00718 0 130
R_R8         N01874 N00718  10k TC=0,0 
